US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 4-pyridinylboronic acid to give ((1H-pyrazol-3-yl)-(1-pyridin-4-yl-isoquinolin-3-yl)-amine. LC-MS m/e 288(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | 4-pyridinylboronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | (1H-pyrazol-3-yl)-(1-pyridin-4-yl-isoquinolin-3-yl)-amine | N1N=C(C=C1)NC=1N=C(C2=CC=CC=C2C1)C1=CC=NC=C1 | C17H13N5
